US09382237B2
Synthesis of 5-((4-hydroxybenzyl)amino)-3-((4-(2-methoxybenzamido)phenyl)amino)-1H-pyrazole-4-carboxamide D143
3-((4-aminophenyl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide (150 mg) was dissolved in 8.0 mL of DMF and TEA (183 μL, 3.0 eq.) was then added to the reaction vessel. Reaction was then stirred on an ice bath for 15 min and o-Anisic acid (67 mg, 1.00 eq.) dissolved in DMF (2.0 mL) was slowly added into the reaction. The reaction continued stirring for 18 hrs and allowed to reach room temperature. The reaction was tracked via HPLC, once completed and no traces of starting material is present, the solvent was then removed via vacuo and column chromatography was used to purify the compound. A gradient of 0 to 20% MeOH in dichloromethane was used and the desired fractions were combined, evaporated and triturated with diisoproyl ether then filtered to yield product as an off white powder (0.025 g, 12.0% yield).

reactant | 3-((4-aminophenyl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide | 150 mg | NC1=CC=C(C=C1)NC1=NNC(=C1C(=O)N)NCC1=CC=C(C=C1)O | C17H18N6O2
reactant | o-Anisic acid | 67 mg, 1.00 eq. | C(C=1C(=CC=CC1)OC)(=O)O | C8H8O3
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 5-((4-hydroxybenzyl)amino)-3-((4-(2-methoxybenzamido)phenyl)amino)-1H-pyrazole-4-carboxamide | 0.025 g, 12.0% yield | OC1=CC=C(CNC2=C(C(=NN2)NC2=CC=C(C=C2)NC(C2=C(C=CC=C2)OC)=O)C(=O)N)C=C1 | C25H24N6O4
